US07501433B2
(+)-3-methoxy-17-(3-pyridylmethy)morphinan hydrobromide
Similarly to the preparation of Example 4, the title compound was prepared from the reaction of (+)-3-methoxy-morphinan hydrochloride (1 g, 3.4 mmol) in THF (20 ml), triethylamine (1.43 ml, 10.3 mmol), and 3-(bromomethyl)pyridine hydrobromide (0.95 g, 3.75 mmol) gave a solid which was treated with 45% HBr to afford 1 g of a tan solid (68% yield); ms(ESI+): m/z 349 (M+1).

reactant | (+)-3-methoxy-morphinan hydrochloride | 3.4 mmol, 1 g | Cl.COC=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3
reactant | triethylamine | 10.3 mmol, 1.43 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(bromomethyl)pyridine hydrobromide | 3.75 mmol, 0.95 g | Br.BrCC=1C=NC=CC1
reactant | HBr | Br | BrH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (+)-3-methoxy-17-(3-pyridylmethy)morphinan hydrobromide | Br.COC=1C=CC=2C[C@@H]3[C@@H]4CCCC[C@@]4(C2C1)CCN3CC=3C=NC=CC3 | InChI=1S/C23H28N2O.BrH/c1-26-19-8-7-18-13-22-20-6-2-3-9-23(20,21(18)14-19)10-12-25(22)16-17-5-4-11-24-15-17;/h4-5,7-8,11,14-15,20,22H,2-3,6,9-10,12-13,16H2,1H3;1H/t20-,22+,23+;/m0./s1
